US03992441
2-Chloro-5-(4-chloromethylpiperidinosulfonyl)benzoic acid (0.5 g.) is dissolved in 10 ml. of 5N sodium hydroxide and refluxed for one hour. 10 ml. of water is then added and the mixture is acidified with concentrated hydrochloric acid. The precipitated solid is chromatographed on a 10 g. silica gel column with a developing solvent system of 1:7 benzene:hexane containing 5% acetic acid. 2-Chloro-5-(4-methylenepiperidinosulfonyl)benzoic acid, m.p. 157°-160° C., is isolated from the first fraction.

reactant | 2-Chloro-5-(4-chloromethylpiperidinosulfonyl)benzoic acid | 0.5 g | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCC(CC1)CCl | C13H15Cl2NO4S
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-Chloro-5-(4-methylenepiperidinosulfonyl)benzoic acid | ClC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)N1CCC(CC1)=C | C13H14ClNO4S
